US04242518
2.88 parts of 3-hydroxy-4-acetyldihydrothiophene are introduced into 20 parts by volume of dried methylene chloride; a solution of 1.7 parts by volume of sulfuryl chloride in 20 parts by volume of dried methylene chloride is added in the course of 10 minutes at 0° C. During the reaction, nitrogen is passed in, in order to expel the hydrochloric acid formed. After 30 minutes, the reaction mixture is worked up. The end product is isolated from the reaction mixture by the method described in Example 1c. 2.22 parts (77% of theory) of 3-hydroxy-4-acetylthiophene of melting point 44°-47° C. are obtained.

reactant | 3-hydroxy-4-acetyldihydrothiophene | OC1CSC=C1C(C)=O | C6H8O2S
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-hydroxy-4-acetylthiophene | 77% | OC1=CSC=C1C(C)=O | C6H6O2S
